US05814631
Synthesis of 3-(4-chlorobenzenesulfonyl)-7-methoxy-2,4(1H,3H)-quinazolinedione (Compound 132)
313 mg (1.44 mmol) of 4-chlorobenzenesulfonylisocyanate and 200 mg (1.20 mmol) of 2-amino-4-methoxybenzoic acid were treated in the same way as in Example 1 to obtain 252 mg of the above-identified compound (yield 62.8%). Properties: colorless crystal, Melting point: 205°-206° C., PMR (δppm, DMSO-d6):3.79 (3H,s), 7.08 (1H,d), 7.28-7.30 (2H,m), 7.75 (2H,d), 8.16 (2H,d), 11.42 (1H,br).

reactant | 4-chlorobenzenesulfonylisocyanate | 1.44 mmol, 313 mg | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-4-methoxybenzoic acid | 1.20 mmol, 200 mg | NC1=C(C(=O)O)C=CC(=C1)OC | C8H9NO3
product | 3-(4-chlorobenzenesulfonyl)-7-methoxy-2,4(1H,3H)-quinazolinedione | 252 mg, yield 62.8% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)OC)=O | C15H11ClN2O5S
